data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
840,910,[CH3:12][NH:13][C:14](=[O:15])[CH-:16][NH+:17]=[C:18]([CH3:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:18]([CH3:19])([C:20](=[O:21])[O:22][CH3:23])[NH:17][CH:16]2[C:14]([NH:13][CH3:12])=[O:15],water,298.15,18.793098992650847,-17.990777186254192
1444,1586,[CH3:12][NH:13][C:14](=[O:15])[N-:16][NH+:17]=[C:18]([C:19](=[O:20])[NH:21][CH3:22])[C:23](=[O:24])[NH:25][CH3:26].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([F:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([F:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[N:16]([C:14]([NH:13][CH3:12])=[O:15])[NH:17][C:18]2([C:19](=[O:20])[NH:21][CH3:22])[C:23](=[O:24])[NH:25][CH3:26],water,298.15,24.99678081860905,-15.914895487556644
1899,2104,[CH3:16][O:17][C:18](=[O:19])[CH:20]=[N+:21]([CH3:22])[C-:23]([C:24]#[N:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[CH:20]([C:18]([O:17][CH3:16])=[O:19])[N:21]([CH3:22])[C:23]2([C:24]#[N:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,21.97674323986019,-20.450433891330075
3602,4111,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[N-:11][O+:12]=[N:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:11]([C:9]([O:8][CH3:7])=[O:10])[O:12][N:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,12.316837981654626,-32.41518567738038
3319,3766,[CH3:9][C:10](=[O:11])[C:12]#[N+:13][C-:14]([C:15]#[N:16])[C:17]#[N:18].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:14]([C:15]#[N:16])([C:17]#[N:18])[N:13]=[C:12]1[C:10]([CH3:9])=[O:11],water,298.15,10.065736030888964,-40.558056404165725
3337,3785,[CH2:1]=[CH2:2].[CH3:3][C:4](=[O:5])[C-:6]([O+:7]=[C:8]([C:9]#[N:10])[C:11]#[N:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH2:1]1[CH2:2][C:6]([C:4]([CH3:3])=[O:5])([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[O:7][C:8]1([C:9]#[N:10])[C:11]#[N:12],water,298.15,9.455863230218894,-47.34257771443744
1256,1372,[CH3:1][O:2][C:3]#[C:4][Br:5].[CH3:6][NH:7][C:8](=[O:9])[C-:10]([CH3:11])[NH+:12]=[C:13]([C:14]([CH3:15])=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[C:10]([C:8]([NH:7][CH3:6])=[O:9])([CH3:11])[NH:12][C:13]1([C:14]([CH3:15])=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,24.82534886259669,-51.513911779347794
2481,2755,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([O+:21]=[C:22]([C:23]([CH3:24])=[O:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[C:32](=[O:33])[NH:34][CH3:35].[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:22]([C:23]([CH3:24])=[O:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[O:21][C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:32](=[O:33])[NH:34][CH3:35],water,298.15,10.155330310801906,-38.261759563678645
4995,5683,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[NH+:22][C-:23]([CH3:24])[C:25]([CH3:26])=[O:27]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:23]([CH3:24])([C:25]([CH3:26])=[O:27])[NH:22][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,29.43125273654968,-4.930385704575097
1533,1693,[CH3:17][C:18](=[O:19])[C-:20]([C:21]([CH3:22])=[O:23])[N+:24]([CH3:25])=[CH:26][C:27]#[N:28].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]3[CH:14]([CH:15]1[O:16]2)[CH:26]([C:27]#[N:28])[N:24]([CH3:25])[C:20]3([C:18]([CH3:17])=[O:19])[C:21]([CH3:22])=[O:23],water,298.15,25.87260893151573,-38.7965387163585
642,702,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([C:18]#[N:19])[N+:20]#[N:21].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:18]#[N:19])[N:20]=[N:21]2,water,298.15,44.28015657938749,1.1318439355685594
3032,3389,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10]([CH3:11])=[N+:12]([CH3:13])[O-:14]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[O:14][N:12]([CH3:13])[C:10]2([CH3:9])[CH3:11],water,298.15,22.544080767012503,3.825037995509092
